US08623359B2
To a solution of 4-(4-{6-amino-5-[(R)-1-(2,6-dichloro-3-fluoro-phenyl)-ethoxy]-pyridin-3-yl}-pyrazol-1-yl)-piperidine-1-carboxylic acid tert-butyl ester (566.7 mg, 1.03 mmol) in methanol (5 mL) or dichlorometha[pi]e (30 mL) was added 4N HCI/dioxane (15 mL). The solution was stirred for about 1 hour or until the de-protection was complete. The solvents were evaporated and the residue was dissolved in methanol and purified on a reversed phase C-18 preparative HPLC eluting with acetonitrile/water with 0.1% acetic acid from 5% to 30% with a linear gradient. After lyophilization, 3-[(R)-1-(2,6-dichloro-3-fluoro-phenyl)-ethoxy]-5-(1-piperidin-4-yl-1H-pyrazol-4-yl)-pyridin-2-ylamine acetate was obtained as a white solid (410 mg, 78% yield, 100% HPLC purity, 96.4% ee). 1H NMR (DMSO-d6, 400 MHz) δ 7.84 (s, 1H), 7.68 (d, 1H), 7.50 (dd, 1H), 7.46 (s, 1H), 7.37 (t, 1H), 6.83 (d, 1H), 6.02 (q, 1H), 5.57 (bs, 2H), 4.09 (m, 1H), 2.98 (m, 2H), 2.53 (m, 2H), 1.88 (m, 2H), 1.82 (s, 3H), 1.73 (d, 3H), 1.70 (m, 2H). MS m/e 450 (M+1)+.

reactant | 4-(4-{6-amino-5-[(R)-1-(2,6-dichloro-3-fluoro-phenyl)-ethoxy]-pyridin-3-yl}-pyrazol-1-yl)-piperidine-1-carboxylic acid tert-butyl ester | 1.03 mmol, 566.7 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)N1N=CC(=C1)C=1C=NC(=C(C1)O[C@H](C)C1=C(C(=CC=C1Cl)F)Cl)N | C26H30Cl2FN5O3
reactant | dioxane | 15 mL | O1CCOCC1 | C4H8O2
solvent | methanol | 5 mL | CO | CH4O
product | 3-[(R)-1-(2,6-dichloro-3-fluoro-phenyl)-ethoxy]-5-(1-piperidin-4-yl-1H-pyrazol-4-yl)-pyridin-2-ylamine acetate | 78% yield | C(C)(=O)O.ClC1=C(C(=CC=C1F)Cl)[C@@H](C)OC=1C(=NC=C(C1)C=1C=NN(C1)C1CCNCC1)N | InChI=1S/C21H22Cl2FN5O.C2H4O2/c1-12(19-16(22)2-3-17(24)20(19)23)30-18-8-13(9-27-21(18)25)14-10-28-29(11-14)15-4-6-26-7-5-15;1-2(3)4/h2-3,8-12,15,26H,4-7H2,1H3,(H2,25,27);1H3,(H,3,4)/t12-;/m1./s1
